US05800733
3.10 g of trifluoromethanesulphonic anhydride dissolved in 10 ml of dichloromethane was added dropwise at 0° C. to a solution of 4.40 g of 4-[2',3'-difluoro-4"-(4-hydroxy-butyl)-1,2':4',1"-terphenyl-4-yloxy]-butyl acrylate and 1.18 g of lutidine in 100 ml of dichloromethane. The reaction mixture was stirred at 0° C. for 90 minutes and subsequently poured into 100 ml of water and extracted twice with 50 ml of dichloromethane. The combined organic phases were washed twice with 50 ml of water each time, dried over magnesium sulphate and concentrated. Chromatographic purification of the residue on silica gel with cyclohexane/ethyl acetate (vol. 8:2) gave 4.20 g of 4-[2',3'-difluoro-4"-[4-(trifluoro-methanesulphonyloxy)-butyl]-1,2':4',1"-terphenyl-4-yloxy]-butyl acrylate.

reactant | trifluoromethanesulphonic anhydride | 3.10 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | 4-[2',3'-difluoro-4"-(4-hydroxy-butyl)-1,2':4',1"-terphenyl-4-yloxy]-butyl acrylate | 4.40 g | C(C=C)(=O)OCCCCOC1=CC=C(C=C1)C1(CC=CC(=C1F)C1=CC=C(C=C1)CCCCO)F | C29H32F2O4
reactant | lutidine | 1.18 g | N1=C(C=CC=C1C)C | C7H9N
reactant | water | 100 ml | O | H2O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 4-[2',3'-difluoro-4"-[4-(trifluoro-methanesulphonyloxy)-butyl]-1,2':4',1"-terphenyl-4-yloxy]-butyl acrylate | 4.20 g | C(C=C)(=O)OCCCCOC1=CC=C(C=C1)C1(CC=CC(=C1F)C1=CC=C(C=C1)CCCCOS(=O)(=O)C(F)(F)F)F | C30H31F5O6S
